US08003656B2
B. 1-(4-Fluorophenyl)-9-methyl-2-(3,4,5-trifluorophenoxy)-1,9-dihydro-6H-purin-6-one (Compound 2)
A mixture of 2-chloro-1-(4-fluorophenyl)-9-ethyl-1,9-dihydro-6H-purin-6-one (55.6 mg, 0.20 mmol) and 3,4,5-trifluorophenol (0.40 mmol) is heated to 140° C. for 36 h. After cooling to RT, the crude mixture is purified by preparative HPLC to give the title compound as a white solid. 1H NMR (400 MHz, DMSO-d6) 7.98 (1H, s), 7.55 (2H, m), 7.45 (2H, m), 7.34 (2H, m), 3.53 (3H, S). m/z=391.05 (M+1); RT=0.78 min.

reactant | 2-chloro-1-(4-fluorophenyl)-9-ethyl-1,9-dihydro-6H-purin-6-one | 0.20 mmol, 55.6 mg | ClC=1N(C(C=2N=CN(C2N1)CC)=O)C1=CC=C(C=C1)F | C13H10ClFN4O
reactant | 3,4,5-trifluorophenol | 0.40 mmol | FC=1C=C(C=C(C1F)F)O | C6H3F3O
product | 1-(4-Fluorophenyl)-9-methyl-2-(3,4,5-trifluorophenoxy)-1,9-dihydro-6H-purin-6-one | FC1=CC=C(C=C1)N1C(=NC=2N(C=NC2C1=O)C)OC1=CC(=C(C(=C1)F)F)F | C18H10F4N4O2
